US07939527B2
1-{2-[4-([1,3]Thiazolo[5,4-b]pyridin-2-yloxy)phenoxy]ethyl}piperidine-4-carboxylic Acid
To a stirred solution of ethyl 1-[2-(4-hydroxyphenoxy)ethyl]piperidine-4-carboxylate (400 mg, 1.37 mmol) and 2-chloro[1,3]thiazolo[5,4-b]pyridine (231 mg, 1.37 mmol) in DMF (6 mL) was added Cs2CO3 (887 mg, 2.73 mmol). The resultant dark red-orange suspension was stirred at rt for 1 h. The reaction mixture was concentrated, and the residue re-dissolved in CH2Cl2 (10 mL) and filtered. To a solution of this crude material in isopropyl alcohol was added 1 N KOH (1 equiv.). The mixture was allowed to stir at rt for 2 h and then poured into water and basified to pH 9. The resultant solution was extracted with a 1:1 solution of CHCl3/isopropyl alcohol. The combined organic extracts were dried, filtered, and concentrated to afford the title compound (39% over two steps). 1H NMR (400 MHz, DMSO-d6): 8.43 (dd, J=4.8, 1.5, 1H), 8.07 (dd, J=8.2, 1.5, 1H), 7.50 (dd, J=8.2, 4.8, 1H), 7.44-7.34 (m, 2H), 7.10-7.04 (m, 2H), 4.11 (t, J=5.8, 2H), 2.94-2.82 (m, 2H), 2.70 (t, J=5.8, 2H), 2.27-2.15 (m, 1H), 2.15-2.04 (m, 2H), 1.85-1.71 (m, 2H), 1.64-1.47 (m, 2H). MS (ESI): mass calcd. for C20H21N3O4S, 399.13; m/z found, 400.1 [M+H]+.

reactant | ethyl 1-[2-(4-hydroxyphenoxy)ethyl]piperidine-4-carboxylate | 1.37 mmol, 400 mg | OC1=CC=C(OCCN2CCC(CC2)C(=O)OCC)C=C1 | C16H23NO4
reactant | 2-chloro[1,3]thiazolo[5,4-b]pyridine | 1.37 mmol, 231 mg | ClC=1SC2=NC=CC=C2N1 | C6H3ClN2S
reactant | Cs2CO3 | 2.73 mmol, 887 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | KOH | 1 N, 1 equiv. | [OH-].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 1-{2-[4-([1,3]Thiazolo[5,4-b]pyridin-2-yloxy)phenoxy]ethyl}piperidine-4-carboxylic Acid | 39% | N1=C(SC2=NC=CC=C21)OC2=CC=C(OCCN1CCC(CC1)C(=O)O)C=C2 | C20H21N3O4S
